US04112086
A solution of 1.32 g (2.4 mol) of 7β-amino-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester and 0.56 g (2.4 mmol) of 3,5-di-t-butyl-4-hydroxybenzaldehyde in 100 ml of dry benzene is refluxed for 4 hours under a Dean-Stark trap. The solution is evaporated under reduced pressure to leave a residue which is dissolved in 100 ml of 1,2-dichloroethane and cooled to ca. 5° in an ice bath. Three grams of freshly prepared lead dioxide is added in portions over 20 minutes until the starting material is completely consumed. The mixture is filtered through Celite and the filter cake is washed with two 20 ml portions of cold 1,2-dichloroethane. The filtrate is treated with 25 ml of methanol (distilled from magnesium) and the reaction mixture is allowed to stand at room temperature until complete consumption of the oxidized intermediate and formation of a new slower-moving product is shown by thin layer chromatography. The mixture is evaporated and the residue is dissolved in 30 ml of methanol and treated with 2.5 g of Girard reagent T (trimethylaminoacetohydrazide chloride). The reaction mixture is stirred at room temperature for 3 hours, then evaporated to give a residue which is partitioned between ethyl acetate and 20% sodium chloride solution. The organic phase is washed with 10% sodium chloride solution and saturated sodium chloride solution. The organic phase is dried (MgSO4), filtered and evaporated to dryness to give 7β-amino-7α-methoxy-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7β-amino-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester | 2.4 mol, 1.32 g | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)C(OCC)(SC2=NN=NN2)CP(=O)OC(C)(C)C | C20H33N6O6PS2
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 2.4 mmol, 0.56 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | lead dioxide | [Pb](=O)=O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 7β-amino-7α-methoxy-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@@]2(OC)N)=O)C(OCC)(SC2=NN=NN2)CP(=O)OC(C)(C)C | C21H35N6O7PS2
